US09212182B2
To a RBF was added 2-bromo-1-fluoro-4-methoxybenzene (1.850 mL, 9.02 mmol, Oakwood), 3-fluoro-5-formylphenylboronic acid (1667 mg, 9.93 mmol, Combi-blocks), tetrakis(triphenylphosphine)palladium (521 mg, 0.451 mmol) and potassium carbonate (3741 mg, 27.1 mmol). A condenser and septum was attached and 1,4-dioxane (24.100 mL) and water (6.03 mL) were added. The mixture was heated at 90° C. for 2 h, at which time the reaction mixture was diluted with water (50 mL) and extracted with EtOAc (2×50 mL). The organic extract was washed with brine (20 mL) and dried over MgSO4. The solution was filtered and concentrated. The residue was absorbed onto a plug of silica gel and purified by chromatography through a 50 g silica column, eluting with a gradient of 0% to 30% EtOAc in Heptane, to provide 2′,5-difluoro-5′-methoxy-[1,1′-biphenyl]-3-carbaldehyde (640 mg, 2.58 mmol, 28.6% yield) as white solid. 1H NMR (400 MHz, DMSO-d6) δ 10.01-10.14 (m, 1H), 8.01 (q, J=1.56 Hz, 1H), 7.82 (tdd, J=1.41, 2.59, 9.76 Hz, 1H), 7.67-7.78 (m, 1H), 7.32 (dd, J=9.65, 10.42 Hz, 1H), 7.18 (dd, J=3.23, 6.46 Hz, 1H), 7.05 (td, J=3.57, 9.00 Hz, 1H) 3.83 (s, 3H).

reactant | 2-bromo-1-fluoro-4-methoxybenzene | 9.02 mmol, 1.850 mL | BrC1=C(C=CC(=C1)OC)F | C7H6BrFO
reactant | 3-fluoro-5-formylphenylboronic acid | 9.93 mmol, 1667 mg | FC=1C=C(C=C(C1)C=O)B(O)O | C7H6BFO3
reactant | potassium carbonate | 27.1 mmol, 3741 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 24.100 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.451 mmol, 521 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 6.03 mL | O | H2O
product | 2′,5-difluoro-5′-methoxy-[1,1′-biphenyl]-3-carbaldehyde | 2.58 mmol, 640 mg, 28.6% yield | FC1=C(C=C(C=C1)OC)C1=CC(=CC(=C1)F)C=O | C14H10F2O2
